US05328911
2-Cyclopropyl-7-methyl-3H-imidazo [4,5-b]pyridine
30 ml of cyclopropanecarboxylic acid and 70 ml of phosphoric acid (85%) were added to 15 g of 2,3-diamino-4-methylpyridine, and the mixture was stirred at an internal temperature of 130° C. for 12 hr. The reaction mixture was cooled, poured into a solution of 140 g of potassium hydroxide in 420 ml of water and then extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and then concentrated. The residue was purified by column chromatography (chloroform:ethanol=97:3). The yield was 14.1 g, and the product was recrystallized from ethyl acetate-isopropyl ether to prepare the title compound in a pure form having a melting point of 203° to 204° C.

reactant | cyclopropanecarboxylic acid | 30 ml | C1(CC1)C(=O)O | C4H6O2
reactant | phosphoric acid | 70 ml | P(O)(O)(O)=O | H3O4P
reactant | 2,3-diamino-4-methylpyridine | 15 g | NC1=NC=CC(=C1N)C | C6H9N3
reactant | potassium hydroxide | 140 g | [OH-].[K+]
solvent | water | 420 ml | O | H2O
product | 2-Cyclopropyl-7-methyl-3H-imidazo [4,5-b]pyridine | C1(CC1)C1=NC=2C(=NC=CC2C)N1 | C10H11N3
